US07169778B2
10. 2-[[4-[3-(tert-Butoxycarbonylamino)pyrrolidin-1-yl]phenyl]amino]-4-(cyclopentylamino)-5-nitropyrimidine
To a solution of 0.41 g (1.69 mmol) of 2-chloro-4-(cyclopentylamino)-5-nitropyrimidine and 0.25 g (2 mmol) N,N-dimethylaniline in 10 mL THF is added a solution of 0.47 g (1.69 mmol) of 3-(tert-butoxycarbonylamino)-1-(4-aminophenyl)pyrrolidine in 10 mL of 2-propanol, and the resulting mixture is heated under reflux for 2 hours. After cooling and acidification with acetic acid, the mixture is diluted with water to give 0.82 g (100%) of the title compound: mp (MeOH) 186–189° C.

reactant | 2-chloro-4-(cyclopentylamino)-5-nitropyrimidine | 1.69 mmol, 0.41 g | ClC1=NC=C(C(=N1)NC1CCCC1)[N+](=O)[O-] | C9H11ClN4O2
reactant | N,N-dimethylaniline | 2 mmol, 0.25 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | 3-(tert-butoxycarbonylamino)-1-(4-aminophenyl)pyrrolidine | 1.69 mmol, 0.47 g | C(C)(C)(C)OC(=O)NC1CN(CC1)C1=CC=C(C=C1)N | C15H23N3O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | 2-propanol | 10 mL | CC(C)O | C3H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-[[4-[3-(tert-Butoxycarbonylamino)pyrrolidin-1-yl]phenyl]amino]-4-(cyclopentylamino)-5-nitropyrimidine | 0.82 g, 100% | C(C)(C)(C)OC(=O)NC1CN(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)NC1CCCC1)[N+](=O)[O-] | C24H33N7O4
